US07419984B2
N*4*-(4-Bromo-phenyl)-6-[5-bromo-2-(2,2,2-trifluoro-ethoxy)-phenyl]-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-[5-bromo-2-(2,2,2-trifluoro-ethoxy)-phenyl]-6-chloro-pyrimidin-2-ylamine and 4-bromo-phenylamine provided the title compound (34% yield). 1H NMR (acetone-d6) δ 4.76 (q, 2H, J=8.5 Hz, CH2), 5.95 (bs, 2H, NH2), 6.72 (s, 1H, Ar), 7.21 (d, 1H, J=8.8 Hz, Ar), 7.44 (d, 2H, J=8.9 Hz, Ar), 7.58 (dd, 1H, J=8.8 Hz, J=2.4 Hz, Ar), 7.75-7.78 (m, 2H, Ar), 8.07 (d, 1H, J=2.4 Hz, Ar), 8.62 (br s, 1H, NH).

reactant | 4-[5-bromo-2-(2,2,2-trifluoro-ethoxy)-phenyl]-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)OCC(F)(F)F | C12H8BrClF3N3O
reactant | 4-bromo-phenylamine | BrC1=CC=C(C=C1)N | C6H6BrN
product | N*4*-(4-Bromo-phenyl)-6-[5-bromo-2-(2,2,2-trifluoro-ethoxy)-phenyl]-pyrimidine-2,4-diamine | 34% yield | BrC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC(=C1)Br)OCC(F)(F)F)N | C18H13Br2F3N4O
